US05059597
c) trans-4-Methoxy-3-methylamino-pyrrolidine dihydrochloride
9.3 g (29 mmol) of trans-1-benzyl-3-benzylmethylamino-4-methoxy-pyrrolidine are dissolved in 100 ml of methanol, 4.8 ml of concentrated hydrochloric acid are added and the mixture is hydrogenated on 4 g of 10% strength Pd-on-active charcoal at 90° C. under 100 bar. The catalyst is filtered off with suction, the filtrate is concentrated and the residue is recrystallized from isopropanol/methanol.

reactant | trans-1-benzyl-3-benzylmethylamino-4-methoxy-pyrrolidine | 29 mmol, 9.3 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)OC)NCCC1=CC=CC=C1 | C20H26N2O
reactant | hydrochloric acid | 4.8 ml | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd | [Pd] | Pd
product | trans-4-Methoxy-3-methylamino-pyrrolidine dihydrochloride | Cl.Cl.CO[C@H]1[C@@H](CNC1)NC | InChI=1S/C6H14N2O.2ClH/c1-7-5-3-8-4-6(5)9-2;;/h5-8H,3-4H2,1-2H3;2*1H/t5-,6-;;/m1../s1
